US05296495
A mixture of 4-tert-butyl-2-(5-formylbenzofuran-2-yl)thiazole (4.46 g), hydroxylamine hydrochloride (3.96 g) and sodium acetate anhydrous (5.0 g) in acetic acid (40 ml) was stirred at ambient temperature for 3 hours. Subsequently, acetic anhydride (13 ml) was added to the mixture. After being stirred for 30 minutes at the same temperature, the reaction mixture was stirred at 120° C. for 2 hours. After being cooled, the mixture was poured into water, followed by collecting by filtration. The precipitates were washed with water and air-dried at ambient temperature. The crude products were washed with petroleum ether to give 4-tert-butyl-2-(5-cyanobenzofuran-2-yl)thiazole (4.44 g).

reactant | 4-tert-butyl-2-(5-formylbenzofuran-2-yl)thiazole | 4.46 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C=O | C16H15NO2S
reactant | hydroxylamine hydrochloride | 3.96 g | Cl.NO
reactant | sodium acetate anhydrous | 5.0 g | CC(=O)[O-].[Na+]
reactant | acetic anhydride | 13 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-tert-butyl-2-(5-cyanobenzofuran-2-yl)thiazole | 4.44 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C#N | C16H14N2OS
